US09034900B2
4-[3-(cyclopropylmethoxy)-6-methylsulfonylpyridin-2-yl]-6-methylfuro[2,3-c]pyridin-7-one
A mixture of 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)furo[2,3-c]pyridin-7-one (50 mg, 0.18 mmol), 3-(cyclopropylmethoxy)-2-iodo-6-methylsulfonylpyridine (53 mg, 0.15 mmol), K3PO4 (114 mg, 0.54 mmol), Pd(dppf)Cl2 (13 mg, 0.018 mmol) in dioxane (5 mL) was bubbled with nitrogen for 5 min and then stirred at 70° C. for 12 h. The reaction mixture was concentrated, treated with DCM (30 mL), washed with water (30 mL) and brine (30 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by prep-HPLC to give the title compound (35 mg, yield: 52%) as an off-white solid.

reactant | 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)furo[2,3-c]pyridin-7-one | 0.18 mmol, 50 mg | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CO2)=O | C14H18BNO4
reactant | 3-(cyclopropylmethoxy)-2-iodo-6-methylsulfonylpyridine | 0.15 mmol, 53 mg | C1(CC1)COC=1C(=NC(=CC1)S(=O)(=O)C)I | C10H12INO3S
reactant | K3PO4 | 0.54 mmol, 114 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.018 mmol, 13 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-(cyclopropylmethoxy)-6-methylsulfonylpyridin-2-yl]-6-methylfuro[2,3-c]pyridin-7-one | 35 mg, yield: 52% | C1(CC1)COC=1C(=NC(=CC1)S(=O)(=O)C)C=1C2=C(C(N(C1)C)=O)OC=C2 | C18H18N2O5S
